data/oMe_Silver.jsonl
{"reaction_id": "NR-337_1-Cl_2-OC(C)(C)C_3-OC_4-Cl_5-F","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(Cl)c(OC(C)(C)C)c(OC)c(Cl)c1F","N#C[Cu]"],"products_smiles": ["c1(C#N)c(Cl)c(OC(C)(C)C)c(OC)c(Cl)c1F"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(Cl)c(OC(C)(C)C)c(OC)c(Cl)c1F","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(Cl)c(OC(C)(C)C)c(OC)c(Cl)c1F","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
{"reaction_id": "NR-001_1-C(C)(C)C_2-CC","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(C(C)(C)C)(CC)C=O","C(C(C)(C)C)(CC)C=O"],"products_smiles": ["C(C(C)(C)C)(CC)C(O)C(C(C)(C)C)(CC)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(CC)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(C)(C)C)(CC)C([O-])C(C(C)(C)C)(CC)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(CC)C(O)C(C(C)(C)C)(CC)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
{"reaction_id": "NR-138_1-OCC_2-c1ccc(OC)cc1_3-c1cnccc1_4-C(C)(C)C_5-C(Br)(Br)Br_6-c1ccc(C(F)(F)F)cc1","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)OCC)(c1ccc(OC)cc1)(c1cnccc1)","C(=O)(C(C)(C)C)(C(Br)(Br)Br)","Nc1ccc(C(F)(F)F)cc1"],"products_smiles": ["C(C(=O)OCC)(c1ccc(OC)cc1)(c1cnccc1)C(C(C)(C)C)(C(Br)(Br)Br)Nc1ccc(C(F)(F)F)cc1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])OCC)(c1ccc(OC)cc1)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(c1ccc(OC)cc1)=C(O)OCC","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])OCC)(c1ccc(OC)cc1)(c1cnccc1)C(C(C)(C)C)(C(Br)(Br)Br)Nc1ccc(C(F)(F)F)cc1","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)OCC)(c1ccc(OC)cc1)(c1cnccc1)C(C(C)(C)C)(C(Br)(Br)Br)Nc1ccc(C(F)(F)F)cc1","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
